US09315463B2
Ethyl 4-amino-5-chloro-2-methoxybenzoate
A solution of 4-amino-5-chloro-2-methoxybenzoic acid (6.6 g, 0.031 mol) in hydrogen chloride 1.25M in Ethanol (250 mL, 0.31 mol) was stirred in a pressure vessel for 6 h at 65° C. The reaction mixture was basified with sodium hydroxide 2N and extracted with methylene chloride. The organic layer was washed with water, dried and filtered. The solvent was removed under reduced pressure giving the title compound as a white solid (78%), which was used in the next step without further purification.

reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.031 mol, 6.6 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | Ethanol | 0.31 mol, 250 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | hydrogen chloride | 1.25M | Cl | ClH
product | Ethyl 4-amino-5-chloro-2-methoxybenzoate | 78% | NC1=CC(=C(C(=O)OCC)C=C1Cl)OC | C10H12ClNO3
